US05352784
6,7,8,9-Tetrahydro-1,2-di(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine
N,N-Bis(phenylmethyl)-6,7,8,9-tetrahydro-1,2-di(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.61 g, 3.3 mmole), palladium hydroxide on carbon (0.50 g, Pearlman's catalyst) and formic acid (10 mL) were combined and heated at reflux for 20 hours. The reaction mixture was cooled to ambient temperature, filtered through a layer of celite and diluted with water (about 20 mL). The resulting mixture was cooled to 0° C., made basic by the addition of 28% ammonium hydroxide then extracted with methylene chloride (3×50 mL). The extracts were combined, dried over magnesium sulfate and concentrated to provide a white solid. The solid was purified by silica gel chromatography eluting with methylene chloride:methanol 90:10 to provide 0.65 g of the desired product as a white solid, m.p.160°-161° C. Analysis: Calculated for C18H28N4 : % C, 71.96; % H, 9.39; % N, 18.65; Found: % C, 71.66; % H, 9.37; % N, 18.46.

reactant | N,N-Bis(phenylmethyl)-6,7,8,9-tetrahydro-1,2-di(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.3 mmole, 1.61 g | C1(=CC=CC=C1)CN(C1=NC=2CCCCC2C2=C1N=C(N2CC(C)C)CC(C)C)CC2=CC=CC=C2 | C32H40N4
catalyst | palladium hydroxide on carbon | 0.50 g | [OH-].[OH-].[Pd+2]
solvent | formic acid | 10 mL | C(=O)O | CH2O2
product | 6,7,8,9-Tetrahydro-1,2-di(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.65 g | CC(CN1C(=NC=2C(=NC=3CCCCC3C21)N)CC(C)C)C | C18H28N4
